US04239903
28.0 g of 6-methoxy-2-tetralone, 200 ml of a 19% ethylamine-ethanol solution, 2.2 g of platinum oxide and 10 ml of absolute ethanol were mixed and the mixture was irradiated with infrared light in the presence of hydrogen to cause a catalytic hydrogenation to occur. After absorption of hydrogen had been completed, the platinum oxide catalyst was filtered off from the reaction solution and the filtrate was concentrated under reduced pressure, followed by extraction with chloroform. The chloroform layer obtained was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue obtained was dissolved in an ethanolic solution of hydrogen chloride having a concentration of about 18% and the solution was concentrated under reduced pressure. Acetone was added to the residue obtained to cause crystallization. The crystals were collected through filtration and recrystallized from ethanol-diethyl ether to give 29.7 g of N-ethyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride as colorless crystals having a melting point of 231°-232° C.

reactant | 6-methoxy-2-tetralone | 28.0 g | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | ethylamine ethanol | C(C)N.C(C)O
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | Cl | ClH
catalyst | platinum oxide | 2.2 g | [Pt]=O
product | N-ethyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | 29.7 g | Cl.C(C)NC1CC2=CC=C(C=C2CC1)OC | InChI=1S/C13H19NO.ClH/c1-3-14-12-6-4-11-9-13(15-2)7-5-10(11)8-12;/h5,7,9,12,14H,3-4,6,8H2,1-2H3;1H
